US06686381B2
{3-[5-(2-Trifluoromethyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic Acid tert-Butyl Ester
The title compound was synthesised from [3-(3-Dimethylaminomethylene-thioureido)-propyl]-carbamic acid tert-butyl ester and 2-trifluoromethyl phenacylbromide (literature: EP 432040) according to the procedure described for Example 25. MS (m/e): 429.9 (MH+, 100%).

reactant | [3-(3-Dimethylaminomethylene-thioureido)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCNC(=S)N=CN(C)C)=O | C12H24N4O2S
reactant | 2-trifluoromethyl phenacylbromide | FC(C1=C(C(CBr)=O)C=CC=C1)(F)F | C9H6BrF3O
product | {3-[5-(2-Trifluoromethyl-benzoyl)-thiazol-2-ylamino]-propyl}-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NCCCNC=1SC(=CN1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C19H22F3N3O3S
